US09023848B2
Step 1: Methyl 2-methyl-6-nitro-4-phenylquinoline-3-carboxylate:
A mixture of 2-amino-5-nitrobenzophenone (1 g, 4.1 mmol), H2NSO3H (0.04 g, 041 mmol) and methyl acetoacetate (1.11 ml, 10.3 mmol) was stirred overnight at 120° C. under N2, than cooled to room temperature, diluted to 100 ml with EtOAc and washed with H2O. The organic phase was dried over anhydrous MgSO4, filtered and filtrate evaporated to dryness under reduced pressure. The residue was purified by crystallization from EtOH to give pure product as a creamy solid (1.05 g, 80%). 1H NMR (300 MHz, CDCl3) δ 8.52 (d, J=2.5 Hz, 1H), 8.48 (dd, J=2.5, 9.2 Hz, 1H), 7.53(m, 3H), 7.34(m, 2H), 3.59(s, 3H), 2.8(s, 3H).

reactant | 2-amino-5-nitrobenzophenone | 4.1 mmol, 1 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C13H10N2O3
reactant | H2NSO3H | 0.04 g | NS(=O)(=O)O | H3NO3S
reactant | methyl acetoacetate | 10.3 mmol, 1.11 ml | C(CC(=O)C)(=O)OC | C5H8O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 2-methyl-6-nitro-4-phenylquinoline-3-carboxylate | 1.05 g, 80% | CC1=NC2=CC=C(C=C2C(=C1C(=O)OC)C1=CC=CC=C1)[N+](=O)[O-] | C18H14N2O4
